US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride dispersion in mineral oil (0. 175 g) and stirred for 15 minutes. The mesylate of phenethyl alcohol (1.28 g) was added and the mixture was stirred and heated under argon at 60° C. overnight. The cooled mixture was treated with glacial acetic acid (3 drops) and the volatiles were removed under vacuum. The residue was mixed with water, the product was extracted with diethyl ether (3×50 mL) and the organic layers were washed in turn with water. The combined organic layers were dried (Na2SO4), filtered, and evaporated to give crude product. The material was purified by HPLC (dichloromethane-hexane; 3: 1) to provide 0.4 g of 4-[(2-phenylethyl)oxy]-alpha-oxobenzeneacetic acid methyl ester as a colorless oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | phenethyl alcohol | 1.28 g | C(CC1=CC=CC=C1)O | C8H10O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 4-[(2-phenylethyl)oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.4 g | COC(C(C1=CC=C(C=C1)OCCC1=CC=CC=C1)=O)=O | C17H16O4
